US07514448B2
(3-Ethylsulfamoyl-phenyl)-acetic acid methyl ester:
Methyl 2-(3-chlorosulfonyl-phenyl)acetate (0.29 g, 1.17 mmol) was dissolved in THF (10 mL) and to this solution 1 mL (2 mmol) of 2M ethylamine in THF was added. Let stir at room temperature 30 minutes, diluted with ethyl acetate and the organic layer was washed with 10% citric acid, brine, dried over sodium sulfate and concentrated to an oil. 0.28 g, 1.09 mmol, 93% yield. 1H NMR 500 MHz (CDCl3) 7.72 ppm, 2H, m; 7.41 ppm, 2H, m; 4.32 ppm, 1H, t; 3.68 ppm, 3H, s; 3.67 ppm, 2H, s; 2.98 ppm, 2H, m; 1.07 ppm, 3H, t.

reactant | Methyl 2-(3-chlorosulfonyl-phenyl)acetate | 1.17 mmol, 0.29 g | ClS(=O)(=O)C=1C=C(C=CC1)CC(=O)OC | C9H9ClO4S
reactant | ethylamine | 2 mmol, 2M, 1 mL | C(C)N | C2H7N
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (3-Ethylsulfamoyl-phenyl)-acetic acid methyl ester | 93% yield | COC(CC1=CC(=CC=C1)S(NCC)(=O)=O)=O | C11H15NO4S
